US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-phenyl-propionamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine with 3-phenyl propionyl chloride.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 3-phenyl propionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-phenyl-propionamide | COC=1C=C(C=CC1OC)CCNC(CCC1=CC=CC=C1)=O | C19H23NO3
